US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-1-methylquinazoline-2,4(1H,3H)-dione (36.39 g, 105 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (40.2 g, 158 mmol), PdCl2(dppf) DCM adduct (4.30 g, 5.27 mmol) and potassium acetate (31.0 g, 316 mmol) in dioxane (500 mL) and DMSO (50 mL) was heated at reflux for 24 h. Additional PdCl2(dppf) DCM adduct (1.47 g) was added and the mixture was heated at reflux for 6 h more. The cooled mixture was filtered through CELITE® and the filtrate was concentrated. The residue was diluted with EtOAc, shaken with water, and both phases were filtered through CELITE® to remove a black precipitate. The organic phase of the filtrate was separated, washed sequentially with water and brine, dried and concentrated. The residue was purified by column chromatography on silica gel (two 330 g columns), eluting with EtOAc-hexanes (gradient from 20-100%). The resulting solid was triturated with EtOAc to give a solid which was collected by filtration. The filtrate was concentrated and crystallized from EtOAc to give additional solid. The mother liquor from this crystallization was concentrated and the residue was purified by column chromatography on silica gel (330 g), eluting with EtOAc-hexanes (gradient from 20-50%), to give additional solid. The three solids were combined to give 1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl) quinazoline-2,4(1H,3H)-dione as a white solid (21.2 g, 51% yield). Mass spectrum m/z 393 (M+H)+. 1H NMR (400 MHz) δ 8.35 (d, J=7.9 Hz, 1H), 7.64 (ddd, J=8.5, 7.3, 1.5 Hz, 1H), 7.59 (dd, J=7.4, 1.4 Hz, 1H), 7.33-7.27 (m, 1H), 7.24-7.17 (m, 1H), 7.12 (d, J=8.1 Hz, 2H), 3.55 (s, 3H), 1.59 (s, 3H), 1.39 (s, 12H).

reactant | 3-(3-bromo-2-methylphenyl)-1-methylquinazoline-2,4(1H,3H)-dione | 105 mmol, 36.39 g | BrC=1C(=C(C=CC1)N1C(N(C2=CC=CC=C2C1=O)C)=O)C | C16H13BrN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 158 mmol, 40.2 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 316 mmol, 31.0 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) DCM | 5.27 mmol, 4.30 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) DCM | 1.47 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl) quinazoline-2,4(1H,3H)-dione | 21.2 g, 51% yield | CN1C(N(C(C2=CC=CC=C12)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C22H25BN2O4
